US05811459
Methyl 4-[2-(2-benzyloxyphenyl)ethenyl]-3-nitrobenzoate was prepared from 3-nitro-4-methylbenzoic acid using the methods described in Example 8 for the conversion of 3-fluoro-4-methylbenzoic acid to methyl 4-[2-(2-benzyloxyphenyl)ethenyl]-3-fluorobenzoate.

reactant | 3-nitro-4-methylbenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1C | C8H7NO4
reactant | 3-fluoro-4-methylbenzoic acid | FC=1C=C(C(=O)O)C=CC1C | C8H7FO2
reactant | methyl 4-[2-(2-benzyloxyphenyl)ethenyl]-3-fluorobenzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=C(C=C(C(=O)OC)C=C1)F | C23H19FO3
product | Methyl 4-[2-(2-benzyloxyphenyl)ethenyl]-3-nitrobenzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C23H19NO5
